US07906517B2
(2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amine (1.07 g) is dissolved in ethanol (15 ml) and thereto is added 10% palladium-carbon (320 mg) and the mixture is stirred under hydrogen atmosphere at room temperature for 7 hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenol (400 mg). MS (m/z): 618 [M+H]+

reactant | (2-Benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amine | 1.07 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C31H26F9N3O4S
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 320 mg | [C].[Pd]
product | 2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-methanesulfonyl-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenol | 400 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCS(=O)(=O)C)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C24H20F9N3O4S
